data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_99051_0,[C@@:1]([C:2]([H:12])([H:13])[H:14])([N:5]([C:3]([H:15])([H:16])[H:17])[H:10])(/[C:6](=[N:8]\[C:4]([H:18])([H:19])[H:20])[H:11])[O:7][H:9]>>[C@:1]1([C:2]([H:12])([H:13])[H:14])([O:7][H:9])[C@@:6]([N:5]([C:3]([H:15])([H:16])[H:17])[H:10])([H:11])[N:8]1[C:4]([H:18])([H:19])[H:20],72.25599749998366
MR_256117_1,[C:1]([C:3]([H:13])([H:15])[H:16])([C:5]([C:2]([C:4]([H:14])([H:17])[H:18])([O:7][H:10])[H:12])=[O:8])([O:6][H:9])[H:11]>>[C:1]([C:3]([H:13])([H:15])[H:16])([C:5]([C:2]([C:4]([H:14])([H:17])[H:18])=[O:7])([O:8][H:10])[H:12])([O:6][H:9])[H:11],38.47327999999166
MR_556526_0,[N:1](/[C:2](=[N:5]/[O:4][H:7])[H:10])(/[C:3](=[N:6]/[H:9])[H:11])[H:8]>>[N:1](=[C:2](/[N:5](/[C:3](=[N:6]/[H:9])[H:11])[O:4][H:7])[H:10])\[H:8],60.76082500000709
MR_675961_2,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:4]([C:3]([O:5][O:6][H:9])=[O:8])=[N:7]/[H:10])([H:11])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]1([O:5][O:6][H:9])/[C:4](=[N:7]/[H:10])[O:8]1)([H:11])[H:12],72.66700999998037
MR_240610_0,[C:1]([N:3]([N:2]([C:4]([N:5]([H:11])[H:12])([O:7][H:8])[H:14])[H:9])[H:10])(=[O:6])[H:13]>>[C:1]([N:3]([N:2]([C:4]([N:5]([H:11])[H:12])=[O:7])[H:9])[H:10])([O:6][H:8])([H:13])[H:14],54.81965499999035
MR_446287_1,[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([N:4]([H:7])[H:8])/[C:5](=[N:6]/[H:9])[H:10])([H:11])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])([N:6](/[C:5](=[N:3]/[N:4]([H:7])[H:8])[H:10])[H:9])([H:11])[H:12],68.9170699999957
MR_383057_1,[N:1]([C:2]([O:7][H:9])=[O:8])([C:3]([N:5]([H:12])[H:13])=[C:6]([H:14])[H:15])[N:4]([H:10])[H:11]>>[N:1](=[C:2](\[O:7][H:9])[O:8][C:3]([N:5]([H:12])[H:13])=[C:6]([H:14])[H:15])\[N:4]([H:10])[H:11],62.115597500010864
MR_426498_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])(/[C:5](=[C:6](/[C:4]([H:20])([H:21])[H:22])[O:9][H:11])[N:7]([H:12])[H:13])[O:8][H:10]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])=[C:5]([C:6]([C:4]([H:20])([H:21])[H:22])([O:8][H:10])[O:9][H:11])[N:7]([H:12])[H:13],60.85306749998821
MR_397084_1,[C:1]1([C:2]([N:6]([H:10])[H:12])([H:13])[H:14])([C:4]([H:18])([H:19])[H:20])[C:3]([H:15])([H:16])[C:9]1(/[C:7]([C:5]([H:21])([H:22])[H:23])=[N:8]/[H:11])[H:17]>>[C:1]1([C:3](/[C:9](=[C:7](\[C:5]([H:21])([H:22])[H:23])[N:8]([H:11])[H:12])[H:17])([H:15])[H:16])([C:4]([H:18])([H:19])[H:20])[C:2]([H:13])([H:14])[N:6]1[H:10],72.39090999999974
MR_94583_2,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])([C:4](=[C:5]([H:16])[H:17])[O:7][H:9])[O:6][H:8]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])[C:4]([O:6][H:8])([O:7][H:9])[C:5]1([H:16])[H:17],72.00562500000942
MR_248806_0,[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])([N:8](/[C:5](=[N:4]\[H:10])[O:7][H:9])[N:6]([H:12])[H:13])[H:11]>>[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])([N:4](/[C:5]([O:7][H:9])=[N:8]/[N:6]([H:12])[H:13])[H:10])[H:11],63.07441750001559
MR_180626_1,[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])([C:4]([C:5](=[C:6]([H:19])[H:20])[O:9][H:13])([O:7][H:11])[O:10][H:12])[H:15])(=[O:8])[H:14]>>[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])([C:4]([O:7][H:11])=[O:10])[H:15])([C:5](=[C:6]([H:19])[H:20])[O:9][H:13])([O:8][H:12])[H:14],54.9577049999985
MR_410676_1,[C:1]([C:2]([N:5]([H:10])[H:11])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([N:4]([H:8])[H:9])[C:6](=[O:7])[H:12]>>[C:1]1([C:3]([H:15])([H:16])[H:17])([N:4]([H:8])[H:9])[C:6]([C:2]([N:5]([H:10])[H:11])([H:13])[H:14])([H:12])[O:7]1,42.46167000001634
MR_522532_2,[C:1]([C:3]([O:7][H:10])=[O:9])([N:5]([H:13])[H:14])(/[C:6](=[C:4](\[C:2]([H:16])([H:17])[H:18])[O:8][H:11])[H:15])[H:12]>>[C:1](\[N:5]([H:13])[H:14])(=[C:6](\[C:4]([C:2]([H:16])([H:17])[H:18])([C:3]([O:7][H:10])=[O:9])[O:8][H:11])[H:15])[H:12],68.31968999997017
MR_592619_1,[C:1]([C:6]([C:2]([H:14])([H:15])[H:16])[C:7]([C:3]([H:19])([H:20])[H:21])[C:4]([H:17])([H:18])[H:22])([O:8][C:5]([O:9][H:11])=[O:10])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C@:6]([C:2]([H:14])([H:15])[H:16])([C:7]([C:3]([H:19])([H:20])[H:21])([C:4]([H:17])([H:18])[H:22])[C:5]([O:9][H:11])=[O:10])[O:8]1,69.40275500001789
MR_223729_1,[N:1]([C:2]([N:4]([H:10])[H:11])=[O:7])([N:3]([H:8])[H:9])[C:5](=[C:6]([H:13])[H:14])[H:12]>>[N:1](=[C:2](\[N:4]([H:10])[H:11])[O:7][C:5](=[C:6]([H:13])[H:14])[H:12])\[N:3]([H:8])[H:9],67.76811750000732
MR_150092_1,[C:1]([C:3]([N:2]([N:4]([H:8])[H:9])[H:7])=[C:6]([H:14])[H:15])([N:5]([H:10])[H:11])([H:12])[H:13]>>[C@@:1]1([N:5]([H:10])[H:11])([H:12])[C@@:3]([N:2]([N:4]([H:8])[H:9])[H:7])([H:13])[C:6]1([H:14])[H:15],69.03441250002047
MR_132890_1,[C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])([O:4][H:7])[N:5]=[O:6]>>[C:1](\[C:2]([H:8])([H:9])[H:10])([O:4][H:7])=[N:5]\[O:6][C:3]([H:11])([H:12])[H:13],71.43271749995776
MR_109350_2,[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[H:11])(/[C:6](=[C:5](\[C:3]([H:17])([H:18])[H:19])[O:8][H:10])[H:13])([O:7][H:9])[H:12]>>[C:1](=[C:6](/[C:5]([C:3]([H:17])([H:18])[H:19])([N:4]([C:2]([H:14])([H:15])[H:16])[H:11])[O:8][H:10])[H:13])(\[O:7][H:9])[H:12],50.06320499997869
